US05242945
To a stirring solution of 736 mg (7.36 mmol) of tetronic acid in 30 mL of dimethylformamide is added 1.2 mL (8.09 mmol) of triethylamine and 300 mg of 4-dimethylaminopyridine at 0° C. Next, 1.7 g (8.86 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 2.6 g (8.06 mmol) of 9-(4-chlorophenoxy)nonanoic acid are added and the reaction is stirred overnight at room temperature. The reaction is acidified with 1.0 N HCl and extracted with four 50 mL portions of ether. The combined organic layers are dried over MgSO4 and concentrated in vacuo affording crude compound. Pure material is obtained by flash chromatography with 10% methanol/ethyl acetate as eluant affording 800 mg (30%) of 3-[9-(4-chlorophenoxy)-1-oxononyl]4-hydroxy-2(5H)-furanone.

reactant | tetronic acid | 7.36 mmol, 736 mg | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 8.09 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 8.86 mmol, 1.7 g | Cl.CN(CCCN=C=NCC)C
reactant | 9-(4-chlorophenoxy)nonanoic acid | 8.06 mmol, 2.6 g | ClC1=CC=C(OCCCCCCCCC(=O)O)C=C1 | C15H21ClO3
reactant | HCl | 1.0 N | Cl | ClH
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 300 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 3-[9-(4-chlorophenoxy)-1-oxononyl]4-hydroxy-2(5H)-furanone | 800 mg, 30% | ClC1=CC=C(OCCCCCCCCC(=O)C=2C(OCC2O)=O)C=C1 | C19H23ClO5
